US08791123B2
Step C: Preparation (R)-5-(2-(5-fluoro-2-(2-methoxyethoxy)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method described in Example 76, Step F using (R)-5-(2-(5-fluoro-2-(2-methoxyethoxy)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid and ammonium chloride to yield the title compound as a white solid (32.6 mg, 55% yield). MS (apci) m/z=400.1 (M+H).

reactant | (R)-5-(2-(5-fluoro-2-(2-methoxyethoxy)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O)OCCOC | C20H21FN4O4
reactant | ammonium chloride | [Cl-].[NH4+]
product | (R)-5-(2-(5-fluoro-2-(2-methoxyethoxy)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 32.6 mg, 55% yield | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)N)OCCOC | C20H22FN5O3
